*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.004/0.002


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_3500_5000
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_500_1000 0 526.135
rdesr_0_0_0_0 nd_1_0_500_1000 nd_1_0_500_1000_ci 526.135
cd_0_0_0_0 nd_1_0_500_1000_ci 0 3.8013e-12
rdload_0_0_0_1 nd_1_0_1500_1000 0 59.9239
rdesr_0_0_0_1 nd_1_0_1500_1000 nd_1_0_1500_1000_ci 59.9239
cd_0_0_0_1 nd_1_0_1500_1000_ci 0 3.33757e-11
rdload_0_0_0_2 nd_1_0_2500_1000 0 53.6613
rdesr_0_0_0_2 nd_1_0_2500_1000 nd_1_0_2500_1000_ci 53.6613
cd_0_0_0_2 nd_1_0_2500_1000_ci 0 3.72708e-11
rdload_0_0_0_3 nd_1_0_3500_1000 0 48.8233
rdesr_0_0_0_3 nd_1_0_3500_1000 nd_1_0_3500_1000_ci 48.8233
cd_0_0_0_3 nd_1_0_3500_1000_ci 0 4.09641e-11
rdload_0_0_0_4 nd_1_0_4500_1000 0 44.6038
rdesr_0_0_0_4 nd_1_0_4500_1000 nd_1_0_4500_1000_ci 44.6038
cd_0_0_0_4 nd_1_0_4500_1000_ci 0 4.48392e-11
rdload_0_0_0_5 nd_1_0_5500_1000 0 86.334
rdesr_0_0_0_5 nd_1_0_5500_1000 nd_1_0_5500_1000_ci 86.334
cd_0_0_0_5 nd_1_0_5500_1000_ci 0 2.31658e-11
rdload_0_0_0_6 nd_1_0_6500_1000 0 58.0292
rdesr_0_0_0_6 nd_1_0_6500_1000 nd_1_0_6500_1000_ci 58.0292
cd_0_0_0_6 nd_1_0_6500_1000_ci 0 3.44654e-11
rdload_0_0_0_7 nd_1_0_7500_1000 0 163.767
rdesr_0_0_0_7 nd_1_0_7500_1000 nd_1_0_7500_1000_ci 163.767
cd_0_0_0_7 nd_1_0_7500_1000_ci 0 1.22125e-11
rdload_0_0_0_8 nd_1_0_8500_1000 0 47.4693
rdesr_0_0_0_8 nd_1_0_8500_1000 nd_1_0_8500_1000_ci 47.4693
cd_0_0_0_8 nd_1_0_8500_1000_ci 0 4.21325e-11
rdload_0_0_0_9 nd_1_0_9500_1000 0 99.059
rdesr_0_0_0_9 nd_1_0_9500_1000 nd_1_0_9500_1000_ci 99.059
cd_0_0_0_9 nd_1_0_9500_1000_ci 0 2.019e-11
rdload_0_0_0_10 nd_1_0_500_3000 0 83.2441
rdesr_0_0_0_10 nd_1_0_500_3000 nd_1_0_500_3000_ci 83.2441
cd_0_0_0_10 nd_1_0_500_3000_ci 0 2.40257e-11
rdload_0_0_0_11 nd_1_0_1500_3000 0 211.517
rdesr_0_0_0_11 nd_1_0_1500_3000 nd_1_0_1500_3000_ci 211.517
cd_0_0_0_11 nd_1_0_1500_3000_ci 0 9.45551e-12
rdload_0_0_0_12 nd_1_0_2500_3000 0 51.3557
rdesr_0_0_0_12 nd_1_0_2500_3000 nd_1_0_2500_3000_ci 51.3557
cd_0_0_0_12 nd_1_0_2500_3000_ci 0 3.89441e-11
rdload_0_0_0_13 nd_1_0_3500_3000 0 46.7058
rdesr_0_0_0_13 nd_1_0_3500_3000 nd_1_0_3500_3000_ci 46.7058
cd_0_0_0_13 nd_1_0_3500_3000_ci 0 4.28212e-11
rdload_0_0_0_14 nd_1_0_4500_3000 0 42.5593
rdesr_0_0_0_14 nd_1_0_4500_3000 nd_1_0_4500_3000_ci 42.5593
cd_0_0_0_14 nd_1_0_4500_3000_ci 0 4.69933e-11
rdload_0_0_0_15 nd_1_0_5500_3000 0 39.5873
rdesr_0_0_0_15 nd_1_0_5500_3000 nd_1_0_5500_3000_ci 39.5873
cd_0_0_0_15 nd_1_0_5500_3000_ci 0 5.05213e-11
rdload_0_0_0_16 nd_1_0_6500_3000 0 196.022
rdesr_0_0_0_16 nd_1_0_6500_3000 nd_1_0_6500_3000_ci 196.022
cd_0_0_0_16 nd_1_0_6500_3000_ci 0 1.02029e-11
rdload_0_0_0_17 nd_1_0_7500_3000 0 50.2357
rdesr_0_0_0_17 nd_1_0_7500_3000 nd_1_0_7500_3000_ci 50.2357
cd_0_0_0_17 nd_1_0_7500_3000_ci 0 3.98123e-11
rdload_0_0_0_18 nd_1_0_8500_3000 0 110.609
rdesr_0_0_0_18 nd_1_0_8500_3000 nd_1_0_8500_3000_ci 110.609
cd_0_0_0_18 nd_1_0_8500_3000_ci 0 1.80817e-11
rdload_0_0_0_19 nd_1_0_9500_3000 0 90.7468
rdesr_0_0_0_19 nd_1_0_9500_3000 nd_1_0_9500_3000_ci 90.7468
cd_0_0_0_19 nd_1_0_9500_3000_ci 0 2.20393e-11
rdload_0_0_0_20 nd_1_0_500_5000 0 22632.3
rdesr_0_0_0_20 nd_1_0_500_5000 nd_1_0_500_5000_ci 22632.3
cd_0_0_0_20 nd_1_0_500_5000_ci 0 8.83694e-14
rdload_0_0_0_21 nd_1_0_1500_5000 0 178.169
rdesr_0_0_0_21 nd_1_0_1500_5000 nd_1_0_1500_5000_ci 178.169
cd_0_0_0_21 nd_1_0_1500_5000_ci 0 1.12253e-11
rdload_0_0_0_22 nd_1_0_2500_5000 0 49.0162
rdesr_0_0_0_22 nd_1_0_2500_5000 nd_1_0_2500_5000_ci 49.0162
cd_0_0_0_22 nd_1_0_2500_5000_ci 0 4.08028e-11
rdload_0_0_0_23 nd_1_0_3500_5000 0 106.097
rdesr_0_0_0_23 nd_1_0_3500_5000 nd_1_0_3500_5000_ci 106.097
cd_0_0_0_23 nd_1_0_3500_5000_ci 0 1.88507e-11
rdload_0_0_0_24 nd_1_0_4500_5000 0 87.422
rdesr_0_0_0_24 nd_1_0_4500_5000 nd_1_0_4500_5000_ci 87.422
cd_0_0_0_24 nd_1_0_4500_5000_ci 0 2.28775e-11
rdload_0_0_0_25 nd_1_0_5500_5000 0 74.6488
rdesr_0_0_0_25 nd_1_0_5500_5000 nd_1_0_5500_5000_ci 74.6488
cd_0_0_0_25 nd_1_0_5500_5000_ci 0 2.67921e-11
rdload_0_0_0_26 nd_1_0_6500_5000 0 164.542
rdesr_0_0_0_26 nd_1_0_6500_5000 nd_1_0_6500_5000_ci 164.542
cd_0_0_0_26 nd_1_0_6500_5000_ci 0 1.2155e-11
rdload_0_0_0_27 nd_1_0_7500_5000 0 48.0848
rdesr_0_0_0_27 nd_1_0_7500_5000 nd_1_0_7500_5000_ci 48.0848
cd_0_0_0_27 nd_1_0_7500_5000_ci 0 4.15931e-11
rdload_0_0_0_28 nd_1_0_8500_5000 0 101.246
rdesr_0_0_0_28 nd_1_0_8500_5000 nd_1_0_8500_5000_ci 101.246
cd_0_0_0_28 nd_1_0_8500_5000_ci 0 1.97539e-11
rdload_0_0_0_29 nd_1_0_9500_5000 0 40.5063
rdesr_0_0_0_29 nd_1_0_9500_5000 nd_1_0_9500_5000_ci 40.5063
cd_0_0_0_29 nd_1_0_9500_5000_ci 0 4.9375e-11
rdload_0_0_0_30 nd_1_0_500_7000 0 72.2676
rdesr_0_0_0_30 nd_1_0_500_7000 nd_1_0_500_7000_ci 72.2676
cd_0_0_0_30 nd_1_0_500_7000_ci 0 2.76749e-11
rdload_0_0_0_31 nd_1_0_1500_7000 0 51.6717
rdesr_0_0_0_31 nd_1_0_1500_7000 nd_1_0_1500_7000_ci 51.6717
cd_0_0_0_31 nd_1_0_1500_7000_ci 0 3.87059e-11
rdload_0_0_0_32 nd_1_0_2500_7000 0 46.7639
rdesr_0_0_0_32 nd_1_0_2500_7000 nd_1_0_2500_7000_ci 46.7639
cd_0_0_0_32 nd_1_0_2500_7000_ci 0 4.27681e-11
rdload_0_0_0_33 nd_1_0_3500_7000 0 96.7217
rdesr_0_0_0_33 nd_1_0_3500_7000 nd_1_0_3500_7000_ci 96.7217
cd_0_0_0_33 nd_1_0_3500_7000_ci 0 2.06779e-11
rdload_0_0_0_34 nd_1_0_4500_7000 0 81.4742
rdesr_0_0_0_34 nd_1_0_4500_7000 nd_1_0_4500_7000_ci 81.4742
cd_0_0_0_34 nd_1_0_4500_7000_ci 0 2.45476e-11
rdload_0_0_0_35 nd_1_0_5500_7000 0 718.859
rdesr_0_0_0_35 nd_1_0_5500_7000 nd_1_0_5500_7000_ci 718.859
cd_0_0_0_35 nd_1_0_5500_7000_ci 0 2.78219e-12
rdload_0_0_0_36 nd_1_0_6500_7000 0 307.926
rdesr_0_0_0_36 nd_1_0_6500_7000 nd_1_0_6500_7000_ci 307.926
cd_0_0_0_36 nd_1_0_6500_7000_ci 0 6.49506e-12
rdload_0_0_0_37 nd_1_0_7500_7000 0 46.0679
rdesr_0_0_0_37 nd_1_0_7500_7000 nd_1_0_7500_7000_ci 46.0679
cd_0_0_0_37 nd_1_0_7500_7000_ci 0 4.34142e-11
rdload_0_0_0_38 nd_1_0_8500_7000 0 42.2399
rdesr_0_0_0_38 nd_1_0_8500_7000 nd_1_0_8500_7000_ci 42.2399
cd_0_0_0_38 nd_1_0_8500_7000_ci 0 4.73486e-11
rdload_0_0_0_39 nd_1_0_9500_7000 0 78.4553
rdesr_0_0_0_39 nd_1_0_9500_7000 nd_1_0_9500_7000_ci 78.4553
cd_0_0_0_39 nd_1_0_9500_7000_ci 0 2.54922e-11
rdload_0_0_0_40 nd_1_0_500_9000 0 530.08
rdesr_0_0_0_40 nd_1_0_500_9000 nd_1_0_500_9000_ci 530.08
cd_0_0_0_40 nd_1_0_500_9000_ci 0 3.77302e-12
rdload_0_0_0_41 nd_1_0_1500_9000 0 60.4331
rdesr_0_0_0_41 nd_1_0_1500_9000 nd_1_0_1500_9000_ci 60.4331
cd_0_0_0_41 nd_1_0_1500_9000_ci 0 3.30944e-11
rdload_0_0_0_42 nd_1_0_2500_9000 0 108.283
rdesr_0_0_0_42 nd_1_0_2500_9000 nd_1_0_2500_9000_ci 108.283
cd_0_0_0_42 nd_1_0_2500_9000_ci 0 1.847e-11
rdload_0_0_0_43 nd_1_0_3500_9000 0 41.456
rdesr_0_0_0_43 nd_1_0_3500_9000 nd_1_0_3500_9000_ci 41.456
cd_0_0_0_43 nd_1_0_3500_9000_ci 0 4.82439e-11
rdload_0_0_0_44 nd_1_0_4500_9000 0 2866.03
rdesr_0_0_0_44 nd_1_0_4500_9000 nd_1_0_4500_9000_ci 2866.03
cd_0_0_0_44 nd_1_0_4500_9000_ci 0 6.9783e-13
rdload_0_0_0_45 nd_1_0_5500_9000 0 66.5314
rdesr_0_0_0_45 nd_1_0_5500_9000 nd_1_0_5500_9000_ci 66.5314
cd_0_0_0_45 nd_1_0_5500_9000_ci 0 3.0061e-11
rdload_0_0_0_46 nd_1_0_6500_9000 0 58.2482
rdesr_0_0_0_46 nd_1_0_6500_9000 nd_1_0_6500_9000_ci 58.2482
cd_0_0_0_46 nd_1_0_6500_9000_ci 0 3.43358e-11
rdload_0_0_0_47 nd_1_0_7500_9000 0 101.427
rdesr_0_0_0_47 nd_1_0_7500_9000 nd_1_0_7500_9000_ci 101.427
cd_0_0_0_47 nd_1_0_7500_9000_ci 0 1.97187e-11
rdload_0_0_0_48 nd_1_0_8500_9000 0 85.1878
rdesr_0_0_0_48 nd_1_0_8500_9000 nd_1_0_8500_9000_ci 85.1878
cd_0_0_0_48 nd_1_0_8500_9000_ci 0 2.34775e-11
rdload_0_0_0_49 nd_1_0_9500_9000 0 72.9471
rdesr_0_0_0_49 nd_1_0_9500_9000 nd_1_0_9500_9000_ci 72.9471
cd_0_0_0_49 nd_1_0_9500_9000_ci 0 2.74171e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7500_3000 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val127'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val128'
cd_add_cap7 nd_1_0_7500_7000 nd7 'dcap_int_val129'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'
rd_add6 nd6 0 'esr7'
rd_add7 nd7 0 'esr8'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_500_1000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_500_3000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_500_5000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_500_7000  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_500_9000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1500_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1500_3000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1500_5000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1500_7000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1500_9000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2500_1000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2500_3000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_2500_5000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_2500_7000  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_2500_9000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3500_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3500_3000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3500_5000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3500_7000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3500_9000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4500_1000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4500_3000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4500_5000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4500_7000  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4500_9000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5500_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5500_3000  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5500_5000  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5500_7000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5500_9000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6500_1000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6500_3000  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6500_5000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6500_7000  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6500_9000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7500_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7500_3000  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7500_5000  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7500_7000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7500_9000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8500_1000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8500_3000  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8500_5000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8500_7000  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8500_9000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9500_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9500_3000  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9500_5000  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9500_7000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9500_9000  0.001

.ends chiplet1
